US09403798B2
4-[11-(4-Fluorophenyl)-2,4-dioxa-8-azaspiro[5.5]undecan-8-yl]-6-methyl-1-{[5-(trifluoro methyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one
To a 1,4-dioxane solution (600 μL) of 4-{4-(4-fluorophenyl)-3,3-bis[(methoxymethoxy)methyl]piperidin-1-yl}-6-methyl-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one (10.0 mg, 16.6 μmol) synthesized in Reference Synthesis Example 362, 12 M hydrochloric acid (200 μL) was added and the resultant mixture was stirred at 60° C. for 2 hours. To saturated sodium carbonate-chloroform solution, the reaction solution was added dropwise and extraction from the resultant mixture with chloroform was performed. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/4→0/1) to obtain the title compound (6.60 mg, yield 76%).

reactant | 4-{4-(4-fluorophenyl)-3,3-bis[(methoxymethoxy)methyl]piperidin-1-yl}-6-methyl-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 16.6 μmol, 10.0 mg | FC1=CC=C(C=C1)C1C(CN(CC1)C1=NC(N(C(=N1)C)CC=1SC(=CC1)C(F)(F)F)=O)(COCOC)COCOC | C27H32F4N4O5S
reactant | hydrochloric acid | 12 M, 200 μL | Cl | ClH
reactant | sodium carbonate chloroform | C([O-])([O-])=O.[Na+].[Na+].C(Cl)(Cl)Cl
solvent | 1,4-dioxane | 600 μL | O1CCOCC1 | C4H8O2
product | 4-[11-(4-Fluorophenyl)-2,4-dioxa-8-azaspiro[5.5]undecan-8-yl]-6-methyl-1-{[5-(trifluoro methyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 6.60 mg, yield 76% | FC1=CC=C(C=C1)C1CCN(CC12COCOC2)C2=NC(N(C(=N2)C)CC=2SC(=CC2)C(F)(F)F)=O | C24H24F4N4O3S
